US04987132
A mixture of 3.68 g of di-2-pyridyl ketone, 2.42 g of L-cysteine, 25 ml of water and 25 ml of ethanol was refluxed for 3.5 hours. After allowing the mixture to cool, the insoluble matter was filtered off, and the filtrate was concentrated to dryness under reduced pressure. The residue was washed in sequence with ethyl acetate and ether to give 0.63 g of 2,2-di(2-pyridyl)thiazolidine-4-carboxylic acid.

reactant | di-2-pyridyl ketone | 3.68 g | N1=C(C=CC=C1)C(=O)C1=NC=CC=C1 | C11H8N2O
reactant | L-cysteine | 2.42 g | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | water | 25 ml | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2,2-di(2-pyridyl)thiazolidine-4-carboxylic acid | 0.63 g | N1=C(C=CC=C1)C1(SCC(N1)C(=O)O)C1=NC=CC=C1 | C14H13N3O2S
